US07816371B2
b. (R)-2-(5-Amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propanamide
A round bottom flask was charged with (R)-2-(6-chloro-5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide (120 mg, 0.00040 mol), ethanol (4 mL, 0.07 mol) and ammonium chloride (200 mg, 0.004 mol) in water (4 mL, 0.2 mol) was added and the reaction heated at 85° C. and iron (90 mg, 0.002 mol) was added in two portions 5 minutes apart. The reaction was stirred at that temperature for 30 minutes and ethylacetate was added and decanted. The solvent was removed to get the product as yellow solid. MS m/z=266.2 (M+H).

reactant | (R)-2-(6-chloro-5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.00040 mol, 120 mg | ClC=1C(=C2C=CN(C(C2=CC1)=O)[C@@H](C(=O)N)C)[N+](=O)[O-] | C12H10ClN3O4
reactant | ethanol | 0.07 mol, 4 mL | C(C)O | C2H6O
reactant | ammonium chloride | 0.004 mol, 200 mg | [Cl-].[NH4+]
reactant | water | 0.2 mol, 4 mL | O | H2O
catalyst | iron | 0.002 mol, 90 mg | [Fe] | Fe
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | (R)-2-(5-Amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propanamide | NC1=C2C=CN(C(C2=CC=C1Cl)=O)[C@@H](C(=O)N)C | C12H12ClN3O2
